US04818431
A mixture of 2.34 g of 2-phenyl-5-oxooctanoic acid, 0.3 g of NaBH4, 0.5 g of NaOH and 25 ml of methanol is boiled for 5 hours and worked up as usual. 2-Phenyl-5-hydroxyoctanoic acid is formed as an intermediate but is not isolated. 2-Oxo-3-phenyl-6-propyltetrahydropyran is obtained.

reactant | 2-phenyl-5-oxooctanoic acid | 2.34 g | C1(=CC=CC=C1)C(C(=O)O)CCC(CCC)=O | C14H18O3
reactant | NaBH4 | 0.3 g | [BH4-].[Na+]
reactant | NaOH | 0.5 g | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 2-Phenyl-5-hydroxyoctanoic acid | C1(=CC=CC=C1)C(C(=O)O)CCC(CCC)O | C14H20O3
